Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, neck pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with history notable for 
hepatitic C and intravenous amphetamine use presenting with one 
day of neck pain and headaches. He reports abrupt onset of neck 
pain around 9 ___ the day prior to admission, which radiated up 
his neck and around his head bilaterally. He describes the 
sensation as a "vice" around his head, and denies associated 
photophobia, nausea, or vomiting. He does report restriction of 
his neck range of motion, noting that he had difficulty looking 
to his left while driving and accidentally jumped a curb. He 
attempted to sleep for a few hours without relief of his neck 
pain, prompting eventual presentation to the ED. Aside from his 
neck pain, he also reports noticing hoarseness of his voice as 
well as worsening 'drooping' of his right eyelid, although the 
latter finding may have been present previously as pointed out 
to him by a family member. 

On review of systems, he denies significant vision change, 
diplopia, lightheadedness, dysphagia, dysarthria, focal 
weakness, numbness, or focal sensory change. He additionally 
denies chest discomfort, palpitations, abdominal pain, changes 
in bowel or bladder habits, or loss of bowel or bladder 
continence. He does, however, report a syncopal episode and a 
presyncopal episode in the past month, both while rapidly 
climbing a flight of stairs. He denies chest discomfort or 
diaphoresis associated with these episodes, and denies further 
evaluation of his symptoms. 
 
Past Medical History:
Hepatitis C, s/p treatment
IV amphetamine use
Tobacco use disorder 
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
ON ADMISSION 
============
Vitals: T: 99.0 P: 118 R: 18 BP: 163/100 SpO2: 97% RA
 General: Awake, cooperative, in moderate discomfort.
 HEENT: NC/AT, no scleral icterus noted, MMM
 Neck: Restricted AROM of neck, able to slightly flex neck but
pain-limited, negative Kernig's
 Pulmonary: No tachypnea or increased WOB
 Cardiac: Warm, well-perfused
 Abdomen: soft, NT/ND
 Extremities: No ___ edema
 Skin: no rashes or lesions noted

Neurologic: 
-Mental Status: Alert, oriented x 3. Attentive, able to name ___ 
backward without difficulty. Language is fluent with intact 
comprehension. Speech was not dysarthric. Able to follow both 
midline and appendicular commands.
-Cranial Nerves:
 II, III, IV, VI:  Anisocoric pupils (5 to 3 mm OS, 4.5 to 3 mm
OD). EOMI without nystagmus. VFF to confrontation. Ptosis OD.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to conversation.
 IX, X: Slight left-sided palatal deviation on elevation; hoarse
voice.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc
 L  5    ___   ___  5   5    5  5     5   
 R  5    ___   ___  5   5    5  5     5   
-Sensory: No deficits to light touch or cold sensation
throughout. No extinction to DSS.
-DTRs:
   Bi Tri ___ Pat Ach
 L  1  1    1    2   1
 R  1  1    1    2   1
-Coordination: No intention tremor or dysmetria on FNF
bilaterally.
-Gait: Narrow-based and steady albeit with short, hesitant
strides. Unable to tandem.
 
ON DISCHARGE
============
Vitals: Temp: 97.9 (Tm 98.4), BP: 133/77 (124-148/77-95), HR: 
103
(102-115), RR: 18 (___), O2 sat: 94% (93-94), O2 delivery: RA  

General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Restricted AROM of neck, able to slightly flex neck but
pain-limited, negative Kernig's
Pulmonary: No tachypnea or increased WOB
Cardiac: Warm, well-perfused
Abdomen: soft, NT/ND
Extremities: No ___ edema
Skin: no rashes or lesions noted

Neurologic: 
Mental Status: Alert, oriented x 3. Attentive, able to name ___ 
backward without difficulty. Language is fluent with intact 
comprehension. Speech was not dysarthric. Able to follow both 
midline and appendicular commands.
Cranial Nerves:
 II, III, IV, VI:  Anisocoric pupils (5 to 3 mm OS, 4.5 to 3 mm
OD). EOMI without nystagmus. No fatiguable upgaze. VFF to
confrontation. Slight ptosis OD.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to conversation.
 IX, X: Palate elevates symmetrically. Voice without hoarseness
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline.
Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
Full strength throughout. No decrement in strength with 
activity.
Sensory: No deficits to light touch or cold sensation 
throughout. No extinction to DSS.
DTRs: deferred
___: No intention tremor or dysmetria on FNF
bilaterally.
Gait: narrow based, steady.

 
Pertinent Results:
LABORATORY:
___ 01:11AM BLOOD %HbA1c-6.0 eAG-126
___ 05:30AM BLOOD Triglyc-71 HDL-56 CHOL/HD-3.5 LDLcalc-124
___ 01:00AM BLOOD TSH-4.3*
___ 01:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:36AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG

___ 01:40PM CEREBROSPINAL FLUID (CSF)- tube 1 TNC-316* 
RBC-___* Polys-64 Bands-1 ___ Metas-1
___ 01:40PM CEREBROSPINAL FLUID (CSF)- tube 4 TNC-97* 
RBC-4910* Polys-51 ___ Monos-20 Eos-1
___ 01:40PM CEREBROSPINAL FLUID (CSF) TotProt-100* 
Glucose-62

MICROBIOLOGY:
___ 1:36 am URINE
   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

CSF CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 

___ 8:30 am CSF;SPINAL FLUID     Site: LUMBAR PUNCTURE      
#1. 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
   FLUID CULTURE (Preliminary):    NO GROWTH. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 

IMAGING:
MRI HEAD W/ AND W/O CONTRAST:
1. No evidence for infarction or acute intracranial hemorrhage. 
No abnormal enhancing intracranial mass or edema. 
2. Incidental note is made of the right posterior communicating
artery minimally contacting the cisternal segment of the right
third cranial nerve.  Otherwise, unremarkable and symmetric
appearance to the bilateral cranial nerves.

CTA HEAD AND NECK:
1. No evidence for acute intracranial abnormalities. 
2. No evidence for dissection or flow-limiting stenosis in the 
major cervical or intracranial arteries.  No evidence for an 
intracranial aneurysm. 
3. Periapical lucency and caries ___ 30.  Please correlate 
clinically 
whether active dental inflammation may be present. 
4. Paranasal sinus disease.  Please note that odontogenic 
etiology should be considered in the setting of the 
above-described abnormalities related to ___ 30.

TTE:
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thicknesses are 
normal with normal cavity size and systolic function (biplane EF 
70%). No masses or thrombi are seen in the left ventricle. The 
right ventricular free wall is hypertrophy. The right 
ventricular cavity is mildly dilated with moderate global free 
wall hypokinesis. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. The 
ascending aorta and aortic arch are mildly dilated. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild [1+] mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. No valvular vegetations or 
masses are seen. There is severe pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
IMPRESSION: Severe pulmonary artery systolic hypertension. Right 
ventricular cavity dilation with free wall hypokinesis. Normal 
left ventricular cavity size and regional/global systolic 
function. Mildly diilated ascending aorta and aortic arch. No 
definite structural cardiac source of embolism identified.
CLINICAL IMPLICATIONS: 
 The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in ___ year; if 
previously known and stable, a follow-up echocardiogram is 
suggested in ___ years.   

CHEST X-RAY:
No focal consolidations or masses.  No acute cardiopulmonary 
process.
 

 
Brief Hospital Course:
Mr ___ is a ___ year old man with a history of IV 
methamphetamine use who presented after an acute onset headache. 


#Horner's syndrome: On admission, he was noted to have a 
Horner's syndrome (ptosis and miosis) on the right. He was 
admitted to rule out ischemic stroke as a cause of central 
Horner's syndrome. His MRI did not show any area of infarct. On 
further questioning, he states that his right eyelid droop has 
been present for months. Although this makes ischemia less 
likely, myasthenia ___ was also considered. However, he did 
not have any signs of fatigable muscle weakness on exam. A chest 
x-ray was obtained and did not show any evidence of Pancoast 
tumor or other compressive cause of Horner's syndrome. HIV, RPR, 
and Lyme serologies were obtained. Transthoracic echocardiogram 
was obtained as part of the stroke work-up and showed evidence 
of pulmonary artery hypertension, but was otherwise was 
unremarkable.

#Headache, neck stiffness: His initial exam was notable for 
restricted range of motion of the neck, raising the possibility 
of meningitis. The acuity of onset was also concerning for 
subarachnoid hemorrhage. An LP was obtained and, although 
traumatic, showed no xanthochromia. There was also no evidence 
of meningitis in the CSF. Overall, we feel muscle spasm is the 
most likely cause of his headache. 

TRANSITIONAL ISSUES: 
-Stroke risk factors: A1c 6.0, LDL 124
-Started on Atorvastatin 40mg for primary prevention
-Consider addition of Aspirin 81mg daily for primary prevention
-Pending results at time of discharge: Lyme IgG/IgM, blood 
cultures
-Continue smoking, illicit drug cessation counseling
-The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in ___ year
-Recommend referral to Sleep clinic for evaluation of excessive 
daytime sleepiness
-Recommend evaluation of pulmonary hypertension discovered on 
echocardiogram
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
2.  Tizanidine 4 mg PO Q8H:PRN muscle spasm 
RX *tizanidine 4 mg 2 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Muscle spasm 
Horner's syndrome 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

You were in the hospital after you experienced a sudden onset 
headache. In the hospital, we found that you had a stiff neck as 
well as a drooping right eyelid. 

We performed several tests. You had an MRI of your head, which 
did not show any evidence of stroke. You also had a lumbar 
puncture (or spinal tap), which showed that you did not have any 
bleeding or infection around your brain. You also had an 
echocardiogram (ultrasound of your heart). This showed some high 
pressure in your pulmonary artery, but was otherwise normal.

Overall, we feel the most likely cause of your headache and neck 
stiffness is from muscle spasm. We will prescribe you a muscle 
relaxant. This medicine can make you tired, so you should avoid 
driving when you first take it. 

Your drooping right eyelid is likely an old finding, and is not 
cause for concern.

Best wishes,
Your ___ team
 
Followup Instructions:
___